US07919488B2
5-(4-fluorobenzyl)-3-(1-trityl-1H-imidazol-4-yl)-1H-pyrazole
To a mixture of 4-(4-fluorophenyl)-1-(1-trityl-1H-imidazol-4-yl)butane-1,3-dione (80 g, 0.165 mol) and anhydrous EtOH/AcOH (400 mL/100 mL) was added NH2NH2.H2O (80 mL, 0.96 mol) dropwise at 0° C. After the addition, the mixture was stirred at RT overnight. The solvent mixture was evaporated, the residue washed with anhydrous Et2O (4×250 mL) and the resulting precipitate was dried in oven to yield the title compound (58.8 g, 73.0%) as a yellow solid.

reactant | 4-(4-fluorophenyl)-1-(1-trityl-1H-imidazol-4-yl)butane-1,3-dione | 0.165 mol, 80 g | FC1=CC=C(C=C1)CC(CC(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H25FN2O2
reactant | NH2NH2.H2O | 0.96 mol, 80 mL | NN.O
solvent | EtOH AcOH | 400 mL | CCO.CC(=O)O
product | 5-(4-fluorobenzyl)-3-(1-trityl-1H-imidazol-4-yl)-1H-pyrazole | 58.8 g, 73.0% | FC1=CC=C(CC2=CC(=NN2)C=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C32H25FN4
